US04335132
4-(3-Amino-4-nitrophenyl)-2,6-dimethylpyridine was prepared in two steps by first nitrating (with 45 ml. of concentrated nitric acid) 10 g. of 3-(2,6-dimethyl-4-pyridinyl)acetanilide using the procedure given above in the second paragraph of Example A-3 to produce 5.2 g. of 4-(3-acetylamino-4-nitrophenyl)-2,6-dimethylpyridine and hydrolyzing the latter compound (41.2 g.) with 6 N aqueous hydrochloric acid to produce 4-(3-amino-4-nitrophenyl)-2,6-dimethylpyridine (34.2 g.), m.p. 226°-229° C.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 4-(3-acetylamino-4-nitrophenyl)-2,6-dimethylpyridine | C(C)(=O)NC=1C=C(C=CC1[N+](=O)[O-])C1=CC(=NC(=C1)C)C | C15H15N3O3
reactant | hydrochloric acid | 6 N | Cl | ClH
product | 4-(3-amino-4-nitrophenyl)-2,6-dimethylpyridine | 34.2 g | NC=1C=C(C=CC1[N+](=O)[O-])C1=CC(=NC(=C1)C)C | C13H13N3O2
